US05753664
2-[3-(4-Chlorobenzoyl)benzyl]thio-3,5,7-trimethyl-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one
Under argon gas, 2-[3-(4-chlorobenzoyl) benzyl]thio-5-methyl-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one (1.31 g) was suspended in anhydrous DME (32 ml) and, under ice-cooling and stirring, 60% sodium hydride-oil (269 mg) was added in two installments. The mixture was stirred for 15 minutes, after which methyl iodide (1.18 g) was added. Then, the mixture was further stirred at room temperature overnight. This reaction mixture was diluted with ethyl acetate, washed with saturated aqueous NaCl solution, and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure and the residue was purified by flash column chromatography (hexane: ethyl acetate=4:1-2.5:1) to provide the title compound (950 mg). 1H-NMR (CDCl3) δ: 2.39(3H,d,J=1.0 Hz), 3.53(3H,s), 3.54(3H,s), 4.52(2H,s), 6.42(1H,d,J=1.0 Hz), 7.36(2H,d,J=8.6 Hz), 7.35-7.50(1H,m), 7.65-7.72(2H,m), 7.69(2H,d,J=8.6 Hz), 7.97(1H,d,J=1.6 Hz).

reactant | 2-[3-(4-chlorobenzoyl) benzyl]thio-5-methyl-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one | 1.31 g | ClC1=CC=C(C(=O)C=2C=C(CSC=3NC(C4=C(N3)NC=C4C)=O)C=CC2)C=C1 | C21H16ClN3O2S
reactant | sodium hydride | 269 mg | [H-].[Na+]
reactant | methyl iodide | 1.18 g | CI | CH3I
reactant | DME | 32 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[3-(4-Chlorobenzoyl)benzyl]thio-3,5,7-trimethyl-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one | 950 mg | ClC1=CC=C(C(=O)C=2C=C(CSC=3N(C(C4=C(N3)N(C=C4C)C)=O)C)C=CC2)C=C1 | C23H20ClN3O2S
